US09376398B2
(i) ethyl 2-(2,2-difluoroethylamino)acetate
2,2-difluoroethylamine (4.0 g) was added to a suspension of ethyl bromoacetate (5.4 mL), potassium iodide (0.82 g), diisopropylethylamine (9.8 mL) in acetonitrile (100 mL) and the mixture was stirred at RT for 25 h. The mixture was concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to afford the sub-title compound (7.0 g) as a colorless oil; 1H NMR (300 MHz, CDCl3); 5.82 (1H, tt), 4.18 (2H, q), 3.46 (2H, s), 3.00 (2H, dt), 1.26 (3H, t).

reactant | 2,2-difluoroethylamine | 4.0 g | FC(CN)F | C2H5F2N
reactant | ethyl bromoacetate | 5.4 mL | BrCC(=O)OCC | C4H7BrO2
reactant | potassium iodide | 0.82 g | [I-].[K+]
reactant | diisopropylethylamine | 9.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | ethyl 2-(2,2-difluoroethylamino)acetate | 7.0 g | FC(CNCC(=O)OCC)F | C6H11F2NO2
